US08076345B2
5-Chloro-2-{4-[(S)-2-hydroxy-1-(6-methoxy-pyridin-3-yl)-ethylamino]-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl}-benzonitrile
A reaction mixture of 5-chloro-2-(4-chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitrile (250 mg, 0.82 mmol) and (S)-2-amino-2-(6-methoxypyridin-3-yl)ethanol (110 mg, 0.68 mmol) in acetonitrile (3 mL) and N,N-diisopropylethylamine (240 μL, 1.4 mmol) was subjected to microwave irradiation at 180° C. for 4 h. The reaction mixture was concentrated and the residue was purified by silica gel column (0-15% MeOH/CH2Cl2) to yield a crude product which was recrystallized from MeOH to yield colorless crystals.

reactant | 5-chloro-2-(4-chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitrile | 0.82 mmol, 250 mg | ClC=1C=CC(=C(C#N)C1)N1CC2=C(N=CN=C2Cl)CC1 | C14H10Cl2N4
reactant | (S)-2-amino-2-(6-methoxypyridin-3-yl)ethanol | 0.68 mmol, 110 mg | N[C@H](CO)C=1C=NC(=CC1)OC | C8H12N2O2
reactant | N,N-diisopropylethylamine | 1.4 mmol, 240 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 5-Chloro-2-{4-[(S)-2-hydroxy-1-(6-methoxy-pyridin-3-yl)-ethylamino]-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl}-benzonitrile | ClC=1C=CC(=C(C#N)C1)N1CC2=C(N=CN=C2N[C@H](CO)C=2C=NC(=CC2)OC)CC1 | C22H21ClN6O2
